US04486445
This step in the process parallels work disclosed by Ziegler, et al., J. Org. Chem. 43: 985-991 (1978), in which 2-butenolide was added to a 1,3-dithiane derivative of piperonal and subsequently reacted with 3,4,5-trimethoxybenzaldehyde to produce (±) -isopodophyllotoxone dithiane.

reactant | 2-butenolide | C1(C=CCO1)=O | C4H4O2
reactant | 1,3-dithiane | S1CSCCC1 | C4H8S2
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 3,4,5-trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
product | isopodophyllotoxone dithiane | COC1=CC(=CC(=C1OC)OC)C2C3C(COC3=O)C4(C5=CC6=C(C=C25)OCO6)SCCCS4 | C25H26O7S2
